Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RIGHT ILIAC VEIN THROMBUS
 
Major Surgical or Invasive Procedure:
___: Placement of right iliac vein stent

 
History of Present Illness:
This is a ___ gentleman with significant right lower 
extremity pain and swelling and a history of chronic venous 
occlusion, all of which is interfering with his ability to work. 
 Given this, the decision was made to proceed to the operating 
room for evaluation and possible intervention.  Risks, benefits 
and alternatives were discussed with the patient who expressed 
understanding and wished to proceed.

 
Past Medical History:
PMH: 
none known                                                   

PSH:  
Intestinal surgery as newborn.
Prosthetic left eye due to injury with glass as a child

 
Social History:
___
Family History:
non contrib
 
Physical Exam:
VS:   0711 T98.6  135 / 75, 56, 18, 99 RA 
general: awake alert conversational / able to make needs known
Neuro: grossly non focal
Lungs: CTA bilaterally
COR: s1s2 regular rate and rhythm
Ext: right access site benign/flat/ palpable femoral pulse and 
DP pulse
 
Pertinent Results:
___ 06:13AM BLOOD Hct-36.8*
___ 06:13AM BLOOD Creat-1.0 K-4.2
 
Brief Hospital Course:
Mr. ___ was admitted through SDS for the proposed procedure.  
He underwent the placement of the right iliac vein stent without 
complication.  His recovery was uneventful.  His exam and groin 
puncture remained stable.  He was discharged to home on life 
long aspirin and one month of xarelto.  We will see him back in 
one month for ultrasound. 
 
Medications on Admission:
Bupropion 150 mg po daily
loratiadine 10 mg po daily
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
we would like you to stay on this for life. 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*12 
2.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
on day # 22 start 20mg po daily for the remaining 9 days. 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 
3.  Rivaroxaban 20 mg PO DAILY Duration: 9 Days 
this is for days 22 - 30 / then you can stop  
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth once a day 
Disp #*9 Tablet Refills:*0 
4.  BuPROPion (Sustained Release) 150 mg PO QAM  
5.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right iliac vein thrombus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral ___.   To do the test, a small puncture was 
made in one of your veins.  The puncture site heals on its own: 
there are no stitches to remove.   

You tolerated the procedure well and are now ready to be 
discharged from the hospital.   

Please follow the recommendations below to ensure a speedy and 
uneventful recovery.
Peripheral Venography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___